US06730791B2
Step F: Preparation of [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, dimethyl ester
Dissolve 4-(cyclopropylcarbonyl)benzeneacetic acid, methyl ester (1.5 g, 6.0 mmol) and dimethylcarbonate (930 mg, 10.3 mmol) in tetrahydrofuran (10 mL). Add 20 mL (20 mmol) of a 1.0 molar solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran over 0.5 hours. Stir 3 days. Add iodomethane (5.3 g, 35 mmol). Stir 24 hours. Add water and ethyl acetate. Wash organic phase with brine, dry over anhydrous magnesium sulfate and concentrate. Purify by flash chromatography (50 g silica gel, ethyl acetate/heptane as eluent) to give the title compound (315 mg, 16%).

reactant | 4-(cyclopropylcarbonyl)benzeneacetic acid, methyl ester | 6.0 mmol, 1.5 g | C1(CC1)C(=O)C1=CC=C(C=C1)CC(=O)OC | C13H14O3
reactant | dimethylcarbonate | 10.3 mmol, 930 mg | COC(OC)=O | C3H6O3
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | iodomethane | 35 mmol, 5.3 g | IC | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, dimethyl ester | 315 mg, 16% | C1(CC1)C(=O)C1=CC=C(C=C1)CC(C(=O)OC)C(=O)OC | C16H18O5
